US08497271B2
Part B. (R)-2-Amino-2-(4-methoxy-phenyl)-ethanol
A mixture of [(R)-2-Hydroxy-1-(4-methoxy-phenyl)-ethyl]-carbamic acid benzyl ester (761 mg, 2.53 mmol) and Pd/C (76 mg) in MeOH (8 mL) was stirred under H2 (1 atm) for 1.5 h. The mixture was filtered and the filtrate was concentrated to give the titled compound (432 mg, 100%).

reactant | [(R)-2-Hydroxy-1-(4-methoxy-phenyl)-ethyl]-carbamic acid benzyl ester | 2.53 mmol, 761 mg | C(C1=CC=CC=C1)OC(N[C@@H](CO)C1=CC=C(C=C1)OC)=O | C17H19NO4
solvent | MeOH | 8 mL | CO | CH4O
catalyst | Pd/C | 76 mg | [Pd] | Pd
product | (R)-2-Amino-2-(4-methoxy-phenyl)-ethanol | 432 mg, 100% | N[C@@H](CO)C1=CC=C(C=C1)OC | C9H13NO2
